US08859596B2
3-butyl-5,5-dimethylthiazolidin-2-imine
A mixture of 2,2-dimethyl-thiirane (TCI, 1.5 g, 17 mmol), N-butyl-cyanamide (1.7 g, 17 mmol) (prepared as described in Ross J. Med. Chem. 1979, 22; 412) and potassium carbonate (2.4 g, 17 mmol) in 2-butanone (15 mL) was heated to 80° C. overnight. The mixture was poured into water, and extracted twice with ethyl acetate. The combined organic extracts were dried over Na2SO4, filtered, concentrated under reduced pressure to afford 2.11 g of the title compound.

reactant | 2,2-dimethyl-thiirane | 17 mmol, 1.5 g | CC1(SC1)C | C4H8S
reactant | N-butyl-cyanamide | 17 mmol, 1.7 g | C(CCC)NC#N | C5H10N2
reactant | potassium carbonate | 17 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
product | 3-butyl-5,5-dimethylthiazolidin-2-imine | 2.11 g | C(CCC)N1C(SC(C1)(C)C)=N | C9H18N2S
